US03984459
b. 2-Methyl-6-phenoxy-hexanoic acid
242 g of methyl-(4-phenoxybutyl)-malonic acid diethyl ester, 1000 ml of a 20% sodium hydroxide solution and 100 ml of ethanol were refluxed for 12 hours.

reactant | methyl-(4-phenoxybutyl)-malonic acid diethyl ester | 242 g | C(C)OC(C(C(=O)OCC)(CCCCOC1=CC=CC=C1)C)=O | C18H26O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Methyl-6-phenoxy-hexanoic acid | CC(C(=O)O)CCCCOC1=CC=CC=C1 | C13H18O3
